US06288096B1
5-([4-[2-(3-Methoxy-4-methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
1.5 g (33.4 mmole) 5-(4-[2-(3-methoxy-4-methanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione was hydrogenated on Pd/C (10%) in 150 ml ethyl acetate and 5 ml acetic acid at atmospheric pressure over night. The catalyst was filtered off and the solvent was evaporated in vacuo. The residue was crystallized in ethanol to give 1.1 g (yield 73%) of the desired product.

reactant | 5-(4-[2-(3-methoxy-4-methanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 33.4 mmole, 1.5 g | COC=1C=C(C=CC1OS(=O)(=O)C)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C20H19NO7S2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-([4-[2-(3-Methoxy-4-methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 1.1 g, yield 73% | COC=1C=C(C=CC1OS(=O)(=O)C)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C20H21NO7S2
